US07612114B2
6-{2-{[5-(2-Azepan-1-ylethyl)pyridin-2-ylmethyl]ethylamino}-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid 6-(2-ethylamino-4,5-dimethoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester (40 mg) and 5-(2-azepan-1-ylethyl)pyridine-2-carbonyl chloride hydrochloride (320 mg) according to an analogous synthetic method to Example 152, the title compound (10 mg) was obtained.

reactant | pivalic acid 6-(2-ethylamino-4,5-dimethoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester | 40 mg | C(C)NC1=C(C=C(C(=C1)OC)OC)C1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O | C25H33NO4
reactant | 5-(2-azepan-1-ylethyl)pyridine-2-carbonyl chloride hydrochloride | 320 mg | Cl.N1(CCCCCC1)CCC=1C=CC(=NC1)C(=O)Cl
product | 6-{2-{[5-(2-Azepan-1-ylethyl)pyridin-2-ylmethyl]ethylamino}-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 10 mg | N1(CCCCCC1)CCC=1C=CC(=NC1)CN(C1=C(C=C(C(=C1)OC)OC)C1CC=2C=CC(=CC2CC1)O)CC | C34H45N3O3
